US06589984B1
A solution of methyl 2-methyl-3-oxopentanoate (7.5 g) in THF (50 ml) was slowly added to a suspension of NaH (2.1 g) in THF (200 ml), and after stirring for 10 minutes, the mixture was cooled to −78° C. and 1.58 M n-BuLi (32 ml) was slowly added dropwise. After stirring the reaction solution at −78° C. for 30 minutes, a solution of methyl 5-(dimethoxymethyl)benzofuran-2-carboxylate (10 g) in THF (50 ml) was slowly added and the mixture was stirred at −78° C. for 4 hours. A saturated ammonium chloride aqueous solution (30 ml) was added to the reaction solution, and after bringing it to room temperature, extraction was performed with AcOEt and the organic layer was dried with MgSO4 and then filtered and concentrated. The residue was dissolved in MeOH (100 ml) and THF (100 ml), a 4 N lithium hydroxide aqueous solution (25 ml) was added, and after stirring at room temperature for 4 hours, a saturated KHSO4 aqueous solution (50 ml) was slowly added. The deposited yellow precipitate was filtered off and rinsed with AcOEt to obtain 3,5-dimethyl-6-(5-formylbenzofuran-2-yl)-4-hydroxy-2H-pyran-2-one

reactant | methyl 2-methyl-3-oxopentanoate | 7.5 g | CC(C(=O)OC)C(CC)=O | C7H12O3
reactant | NaH | 2.1 g | [H-].[Na+]
reactant | n-BuLi | 1.58 M, 32 ml | [Li]CCCC
reactant | methyl 5-(dimethoxymethyl)benzofuran-2-carboxylate | 10 g | COC(C=1C=CC2=C(C=C(O2)C(=O)OC)C1)OC | C13H14O5
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3,5-dimethyl-6-(5-formylbenzofuran-2-yl)-4-hydroxy-2H-pyran-2-one | CC=1C(OC(=C(C1O)C)C=1OC2=C(C1)C=C(C=C2)C=O)=O | C16H12O5
